US04656298
The starting material can be prepared as follows: A solution of 20 g of ethyl(diethoxymethyl)phosphonite (Aust. J. Chem. 33, 292 (1980)) and 5 g of acrylonitrile in 25 ml of ethanol is added to a stirred mixture of 1 g of sodium hydride (50% dispersion in oil) in 25 ml of ethanol at 0° C. under an atmosphere of nitrogen. The reaction mixture is allowed to warm to room temperature and stirred for 4 hours. 1 ml of glacial acetic acid is added and the mixture is concentrated under reduced pressure. The resulting crude product is dissolved in 50 ml of ethyl acetate, washed twice with 26 ml of water, and the organic extract is dried over magnesium sulphate, and then concentrated under reduced pressure. The crude product is distilled under reduced pressure to give ethyl 2-cyanoethyl(diethoxymethyl)phosphinate, b.p. 114° C./0.01 mbar, 31P=+40.8 ppm (CDCl3).

reactant | ethyl(diethoxymethyl)phosphonite | 20 g | C(C)OP([O-])C(OCC)OCC
reactant | acrylonitrile | 5 g | C(C=C)#N | C3H3N
reactant | sodium hydride | 1 g | [H-].[Na+]
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | ethyl 2-cyanoethyl(diethoxymethyl)phosphinate | C(#N)CCP(OCC)(=O)C(OCC)OCC | C10H20NO4P
